US08809371B2
A 1N sodium hydroxide aqueous solution (15 ml) was added to a solution of tetrahydrofuran (30 ml) and methanol (30 ml) containing methyl 6-(cis-2-(tert-butoxycarbonylamino)cyclohexylamino)-2-chloro-5-fluoronicotinate (3.00 g), followed by stirring at 65° C. for 2 hours. The reaction mixture was cooled to room temperature, the solvent was distilled away under reduced pressure, and a saturated aqueous ammonium chloride solution, tetrahydrofuran, and ethyl acetate were added. The organic layer was collected, washed with saturated saline, and dried over anhydrous magnesium sulfate, and the solvent was distilled away under reduced pressure. Colorless oily matter of 6-(cis-2-(tert-butoxycarbonylamino)cyclohexylamino)-2-chloro-5-fluoronicotinic acid (3.00 g) was thus obtained.

reactant | sodium hydroxide | 1N, 15 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | methyl 6-(cis-2-(tert-butoxycarbonylamino)cyclohexylamino)-2-chloro-5-fluoronicotinate | 3.00 g | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=NC(=C(C(=O)OC)C=C1F)Cl | C18H25ClFN3O4
solvent | methanol | 30 ml | CO | CH4O
product | 6-(cis-2-(tert-butoxycarbonylamino)cyclohexylamino)-2-chloro-5-fluoronicotinic acid | 3.00 g | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=NC(=C(C(=O)O)C=C1F)Cl | C17H23ClFN3O4
